US04383999
To a suspension of 3.9 g. (0.16 mole) of magnesium turnings in 300 ml. of dry ether was added dropwise 26.7 g. (0.16 mole) of 1-bromo-4-methoxybutane in 80 ml. of ether and the mixture refluxed for four hours. The reaction mixture was cooled and 14.6 g. (0.008 mole) of benzophenone in 100 ml. of dry ether was added dropwise. The mixture was stirred at ambient temperature for 18 hours, cautiously quenched with water and the ether layer separated. The aqueous layer was extracted with ether and the combined ether extract was dried and concentrated to give 1,1-diphenyl-5-methoxy-1-pentanol, m.p. 112°-115° C.

reactant | magnesium | 0.16 mole | [Mg] | Mg
reactant | 1-bromo-4-methoxybutane | 0.16 mole | BrCCCCOC | C5H11BrO
reactant | benzophenone | 0.008 mole | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | ether | CCOCC | C4H10O
product | 1,1-diphenyl-5-methoxy-1-pentanol | C1(=CC=CC=C1)C(CCCCOC)(O)C1=CC=CC=C1 | C18H22O2
